US08476470B2
(Steps 1 and 2): 4-(Benzylamino)-2-oxobicyclo[2.2.2]octane-1-carboxylic acid ethyl ester
Toluene (130 mL) was added to 1-acetyl-4-oxocyclohexyl carboxylic acid ethyl ester (12.9 g, 60.6 mmol) and then the resulting mixture was stirred. To the mixture, there were added benzylamine (13.3 mL, 121 mmol) and p-toluenesulfonic acid monohydrate (124 mg, 0.65 mmol). The mixture was refluxed for 7 hours with a Dean-Stark apparatus under the dehydration conditions. After cooled back to room temperature, a 1 mol/L hydrochloric acid solution (130 mL) was added to the flask and the resulting mixture was then stirred for 0.5 hours. The mixture was made alkali by the use of a 2 mol/L sodium hydroxide aqueous solution, followed by the separation of the organic phase and the subsequent quantitative analysis (according to the LC technique). As a result, the yield of the desired product was found to be 75% (the internal standard substance used was 1,2,4-trimethyl benzene).

reactant | 1-acetyl-4-oxocyclohexyl carboxylic acid ethyl ester | 60.6 mmol, 12.9 g | C(C)OC(=O)C1(CCC(CC1)=O)C(C)=O | C11H16O4
reactant | benzylamine | 121 mmol, 13.3 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | p-toluenesulfonic acid monohydrate | 0.65 mmol, 124 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | hydrochloric acid | 1 mol/L, 130 mL | Cl | ClH
reactant | sodium hydroxide | 2 mol/L | [OH-].[Na+]
solvent | Toluene | 130 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(Benzylamino)-2-oxobicyclo[2.2.2]octane-1-carboxylic acid ethyl ester | C(C)OC(=O)C12C(CC(CC1)(CC2)NCC2=CC=CC=C2)=O | C18H23NO3
